US06252041B1
To a mixed solvent of dioxane (162 ml), water (83 ml) and 1M aqueous sodium carbonate (83 ml) was added 5-aminovaleric acid (10 g). To the solution was added under ice-cooling di-t-butyl dicarbonate (19.9 g). After stirring at room temperature overnight, the mixture was concentrated under reduced pressure to about 100 ml. After being adjusted to pH 3 with 10% aqueous citric acid under ice-cooling, the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over sodium sulfate. After the solvent was removed in vacuo, the residue was recrystallized from hexane-ethyl acetate to afford 17 g of N-Boc-5-aminovaleric acid.

reactant | dioxane | 162 ml | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 1M, 83 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-aminovaleric acid | 10 g | NCCCCC(=O)O | C5H11NO2
reactant | di-t-butyl dicarbonate | 19.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 83 ml | O | H2O
product | N-Boc-5-aminovaleric acid | 17 g | C(=O)(OC(C)(C)C)NCCCCC(=O)O | C10H19NO4
